US04560697
Heptafluoropropyliodide (5 g, 6.9 mmole) was stirred at -78° C. in dry diethylether (20 ml). A solution of phenylmagnesium bromide in ethyl ether (10 ml of a 1.88 M solution) was added over a half-hour period. When this addition was complete, the reaction mixture was stirred at -20° C. for one hour. To this solution was added, at -78° C., 1,3-dichloroacetone (3.25 g, 25.6 mmole) in dry diethylether (20 ml) dropwise, keeping the temperature below -65° C. The mixture was then stirred four hours between -20° and -50° C. Glacial acetic acid (3 ml) in diethylether (5 ml) was added slowly followed by water (15 ml). The mixture was allowed to warm to 5° C. and then the phases were separated. The aqueous phase was washed with ether (2×25 ml). The ethereal extracts were combined, dried (MgSO4) and evaporated to give crude 1,3-dichloro-2-(heptafluoropropyl)propan-2-ol, which was used directly in the next step.

reactant | Heptafluoropropyliodide | 6.9 mmole, 5 g | FC(C(F)(F)I)(C(F)(F)F)F | C3F7I
reactant | phenylmagnesium bromide | C1(=CC=CC=C1)[Mg]Br
reactant | 1,3-dichloroacetone | 25.6 mmole, 3.25 g | ClCC(=O)CCl | C3H4Cl2O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
solvent | diethylether | 5 ml | C(C)OCC | C4H10O
solvent | water | 15 ml | O | H2O
product | 1,3-dichloro-2-(heptafluoropropyl)propan-2-ol | ClCC(CCl)(O)C(C(C(F)(F)F)(F)F)(F)F | C6H5Cl2F7O
